US05663053
1-(7-ethoxy-carbonylheptyl)-2-(4-methoxyphenyl)-4,5-diphenylimidazole
1-(7-Carboxyheptyl)-2-(4-methoxyphenyl)-4,5-diphenyl-imidazole (0.4 g) was reacted with ethanol and concentrated sulphuric acid in a method similar to Example 18 to give, after work-up and column chromatography on silica gel eluted with a dichloromethane:ethanol gradient, 1-(7-ethoxy-carbonylheptyl)-2-(4-methoxyphenyl)-4,5-diphenylimidazole (0.21 g, 50%) as an oil. Found: C, 77.39; H, 7.55; N, 5.96%; C32H36N2O3 requires: C, 77.39; H, 7.31; N, 5.64%.

reactant | 1-(7-Carboxyheptyl)-2-(4-methoxyphenyl)-4,5-diphenyl-imidazole | 0.4 g | C(=O)(O)CCCCCCCN1C(=NC(=C1C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=C(C=C1)OC | C30H32N2O3
reactant | sulphuric acid | S(O)(O)(=O)=O | H2O4S
reactant | ethanol | C(C)O | C2H6O
product | 1-(7-ethoxy-carbonylheptyl)-2-(4-methoxyphenyl)-4,5-diphenylimidazole | C(C)OC(CCCCCCN1C(=NC(=C1C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=C(C=C1)OC)=C=O | C32H34N2O3
